US07566712B2
K. 1-{4-(3-Chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-4-propyl-piperazin-2-one
To a solution of 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine (259 mg, 0.55 mmol), 3-oxo-piperazine-1-carboxylic acid tert-butyl ester (prepared essentially as described by Kane and Carr (1980) Teit. Lett. 21:3019-20; 132 mg, 0.66 mmol) and Cs2CO3 (250 mg, 0.77 mmol) in dioxane, add 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (19 mg, 0.03 mmol). Purge the reaction mixture for 10 minutes with nitrogen gas and then add Pd2(dba)3 (10 mg, 0.011 mmol). After purging with nitrogen gas for an additional 5 minutes, heat the mixture at 90° C. for 16 hours under nitrogen atmosphere. Filter the mixture through celite and concentrate under reduced pressure to give the title compound.

reactant | 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | 0.55 mmol, 259 mg | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C20H15Cl2F4N5
reactant | 3-oxo-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | Cs2CO3 | 0.77 mmol, 250 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.03 mmol, 19 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.011 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-{4-(3-Chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-4-propyl-piperazin-2-one | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)N1C(CN(CC1)CCC)=O | C27H28ClF4N7O
